US08791132B2
To a solution of 2-methyl-8-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 3.937 mmol) in DMF (10 mL) was added sodium hydride (472 mg, 11.81 mmol) in portions at RT. After stirring at RT for 15 min, the suspension was allowed to cool to 0° C. and 4-(oxiran-2-yl)pyridine (762 mg, 6.299 mmol) was added dropwise into the reaction mixture, which was stirred at RT overnight. The reaction mixture was poured into ice-cooled water and extracted with EtOAc (3×50 mL). The organic layer was washed with water (2×50 mL), dried over anhydrous sodium sulfate and concentrated. The solid obtained was re-crystallized in DCM-diethyl ether to yield 2-(2-methyl-8-(trifluoromethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.59 (d, 2H), 7.4 (s, 1H), 7.39 (d, 1H), 7.3 (d, 1H), 7.19 (d, 2H), 4.68 (m, 1H), 4.1 (m, 2H), 3.4 (dd, 2H), 2.82 (m, 1H), 2.74 (bs, 2H), 2.6 (m, 1H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers 6a and 6b.

reactant | 2-methyl-8-(trifluoromethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 3.937 mmol, 1.0 g | CN1CC2=C(NC=3C=CC(=CC23)C(F)(F)F)CC1 | C13H13F3N2
reactant | sodium hydride | 11.81 mmol, 472 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 6.299 mmol, 762 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-methyl-8-(trifluoromethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(pyridin-4-yl)ethanol | CN1CC2=C(N(C=3C=CC(=CC23)C(F)(F)F)CC(O)C2=CC=NC=C2)CC1 | C20H20F3N3O
